US07745452B2
To a −18° C. solution of 6-chloro-4-(4-bromophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (2 g, 4.6 mmol) in anhydrous THF (20 mL) was added triethylamine (2.6 mL, 18 mmol). The reaction was stirred for 5 min and then thionyl chloride (0.0.37 mL, 5 mmol) was added dropwise. After 10 min, 0.5M cyclopropylmagnesium bromide in THF (36 mL, 18 mmol) was added. The reaction mixture was warmed from −18° C. to 0° C. and allowed to stir for 6 hours and then quenched with 25 mL 1N aqueous HCl and extracted with 150 mL ethyl acetate. The organic layer was washed with brine (100 mL), dried over MgSO4, filtered, and concentrated in vacuo. Purification by normal phase chromatography (120 g silica gel cartridge, linear gradient 10-70% EtOAc/hexanes) followed by crystallization from hexanes gave 6-chloro-4-cyclopropyl-4-(4-bromophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one as a green solid. 1H NMR (CDCl3, 400 MHz) δ 7.56 (s, NH); 7.46 (br d, 2H, J=8.61 Hz); 7.21 (dd, 1H, J=8.42 and 2.20 Hz); 7.12 (br d, 2H, J=7.14 Hz); 6.85 (br m, 1H); 6.68 (d, 1H, J=8.24 Hz); 4.27 (m, 2H); 1.6 (obs, 1H); 0.77 (m, 2H); 0.19 (m, 1H); 0.09 (m, 1H); MS (Electrospray): m/z 459.0 (M+H, Br=79).

reactant | 6-chloro-4-(4-bromophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 4.6 mmol, 2 g | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(O)C1=CC=C(C=C1)Br | C16H11BrClF3N2O2
reactant | triethylamine | 18 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 5 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | cyclopropylmagnesium bromide | 0.5M | C1(CC1)[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mmol, 36 mL | C1CCOC1 | C4H8O
product | 6-chloro-4-cyclopropyl-4-(4-bromophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C1=CC=C(C=C1)Br)C1CC1 | C19H15BrClF3N2O
